US06462035B1
6-FLUORO-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3.5-TRIENE HYDROCHLORIDE
3-Fluoromethoxybenzene (15.8 g, 125 mmol) was stirred at -78° C. in anh. THF (100 mL) and treated with n-BuLi (50 mL, 2.5M hexanes soln., 125 mmol) over 5 min. After stirring below −70° C. for 4 hours, the mixture was treated with cyclopent-3-enecarboxylic acid methoxy-methyl-amide (18.4 g, 119 mmol) dropwise over ˜¼ hour. The mixture was stirred below −70° C. for 1 hour, and then allowed to warm to ambient temperature over ˜1 hour. The mixture was poured into 1N aq. HCl soln. (200 mL) and shaken. The layers were separated and the aq. layer extracted with EtOAc (3×100 mL). The organic layer was washed with H2O (50 mL), sat. aq. NaHCK soln. (100 mL), and brine (50 mL), dried (Na2SO4), filtered through a Silica plug and concentrated to an oil (21.0 g, 76%). (TLC 30%EtOAc/hexanes Rf 0.43). GCMS m/e 220 (M+). This material was converted to the title compound by the methods described in Example 2C-G and Example 1G. (TLC 10%MeOH/CH2Cl2 (NH3) Rf 0.20). 1H NMR (CD3OD) δ7.24 (m. 1H), 7.01 (m, 2H), 3.36 (d, J=13.0 Hz, 1H), 3.33-3.10 (m, 5H), 2.90 (d, J=18.5 Hz, 1H), 2.60 (m, 1H), 2.13 (AB d, J=13.0 Hz, 1H), 1.97 (AB d, J=13.0 Hz, 1H). mp 240-241° C.

reactant | 3-Fluoromethoxybenzene | 125 mmol, 15.8 g | FCOC=1C=CC=CC1 | C7H7FO
reactant | n-BuLi | [Li]CCCC
reactant | cyclopent-3-enecarboxylic acid methoxy-methyl-amide | 119 mmol, 18.4 g | CON(C(=O)C1CC=CC1)C | C8H13NO2
reactant | HCl | 1N | Cl | ClH
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-FLUORO-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3.5-TRIENE HYDROCHLORIDE | Cl.FC1=CC=CC=2C3CNCC(CC12)C3 | InChI=1S/C12H14FN.ClH/c13-12-3-1-2-10-9-4-8(5-11(10)12)6-14-7-9;/h1-3,8-9,14H,4-7H2;1H
